US06559174B2
N-[N-(3,5-Dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3 -carbonyl]-4-(N-(3,5-dichloroisonicotinoyl)amino)-phenylalanine, methyl ester (40 mg, 0.0543 mmol) was treated with a 0.2 N solution of NaOH in MeOH (0.0543 mmol, 0.272 mL). After stirring at rt for 6 h, TLC indicated disappearance of all starting material. The volatiles were removed under reduced pressure and the residue was partitioned between 5% citric acid and EtOAc. The aqueous layer was re-extracted with EtOAc (2X). The organic layers were combined and washed with brine and dried over anhydrous Na2SO4. The crude product was purified by flash column chromatography on silica gel eluted with a gradietn of CH2Cl2 and MeOH to afford N-[N-(3,5-dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-4 -(N-(3,5-dichloroisonicotinoyl)amino)-phenylalanine (28 mg, 72%) as a white foam, homogeneous by TLC (Rf=0.2 in 9:1 CH2Cl2:MeOH) Mass spectrum (LC/MS ESI) m/e 723 (M+1)+.

reactant | N-[N-(3,5-Dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3 -carbonyl]-4-(N-(3,5-dichloroisonicotinoyl)amino)-phenylalanine, methyl ester | 0.0543 mmol, 40 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)OC | C32H26Cl4N4O6S
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | 0.0543 mmol, 0.272 mL | CO | CH4O
product | N-[N-(3,5-dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-4 -(N-(3,5-dichloroisonicotinoyl)amino)-phenylalanine | 28 mg, 72% | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)O | C31H24Cl4N4O6S
